US07683067B2
N-[2-(Aminosulfonyl)ethyl]-2-hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride
Starting materials: methyl 2-hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxylate and 2-aminoethanesulfonamide hydrochloride, but the reaction mixture was heated at 80° C. for 22 h. After the first 2 h, an additional 6 eqv. of trimethylaluminium was added to the reaction mixture. The mixture was cooled, diluted with a saturated sodium hydrogen carbonate solution (10 mL) and concentrated in vacuo. The residue was suspended in methanol/dichloromethane, (1:1), silica gel (˜2 g) was added and the mixture was re-concentrated in vacuo, resulting in a fine yellow powder that was purified on a silica gel column using dichloromethane/methanol/aqueous NH3, (first 100:10:1, then 70:10:1), as the eluent to afford the title compound as a base in 40% yield: 1H NMR (DMSO-d6, 300 MHz) δ 14.5 (br s, 1H), 11.29 (br s, 1H), 10.69 (s, 1H), 8.61 (br s, 1H), 8.22 (s, 1H), 8.04 (d, J=9.0 Hz, 1H), 7.98 (s, 1H), 7.82 (d, J=9.0 Hz, 1H), 7.51 (d, J=8.2 Hz, 1H), 6.96-6.90 (m, 3H), 4.25 (s, 2H), 3.98-3.64 (m, 14H), 3.36-3.22 (m, 4H), 3.12-3.04 (m, 2H); MS (ES) m/z 460 (M++1). The base was converted to the hydrochloride

reactant | methyl 2-hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxylate | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C(=O)OC | C20H21N3O4
reactant | 2-aminoethanesulfonamide hydrochloride | Cl.NCCS(=O)(=O)N
reactant | trimethylaluminium | 6 eqv. | C[Al](C)C
solvent | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
product | N-[2-(Aminosulfonyl)ethyl]-2-hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride | 40% yield | Cl.NS(=O)(=O)CCNC(=O)C=1C=C2C(=C(NC2=CC1)O)C1=NC=C(C=C1)CN1CCOCC1 | InChI=1S/C21H25N5O5S.ClH/c22-32(29,30)10-5-23-20(27)15-2-4-17-16(11-15)19(21(28)25-17)18-3-1-14(12-24-18)13-26-6-8-31-9-7-26;/h1-4,11-12,25,28H,5-10,13H2,(H,23,27)(H2,22,29,30);1H
